US07799894B2
(1) Synthesis of 1,2,3-triaminobenzene
15.0 g (82 mmol) of 2,6-dinitroaniline was dissolved in 150 g of THF and the reaction system was satisfactorily purged with nitrogen, to which 7.6 g of 5% Pd/C (hydrous) was added. Thereafter, the system was purged with hydrogen, followed by reaction at room temperature for 15 hours. After completion of the reaction, the reaction solution was filtered to remove Pd therefrom, and the resulting filtrate was condensed as it is to obtain the intended product. The thus obtained product was instable and was used as it is in a subsequent reaction.

reactant | 2,6-dinitroaniline | 82 mmol, 15.0 g | [N+](=O)([O-])C1=C(N)C(=CC=C1)[N+](=O)[O-] | C6H5N3O4
solvent | THF | 150 g | C1CCOC1 | C4H8O
product | 1,2,3-triaminobenzene | NC1=C(C(=CC=C1)N)N | C6H9N3
